US08357711B2
N-{2-[(4-chlorophenyl)amino]ethyl}-4-[(1,3-thiazol-2-ylamino)sulfonyl]benzamide
A mixture of 4-iodo-N-1,3-thiazol-2-ylbenzenesulfonamide (Preparation 98, 0.2 g, 0.5 mmol), N-(2)-(4-tert-butyl-phenyl)-2-methyl-propane-1,2-diamine (0.55 g, 2.5 mmol), hexacarbonylmolybdenum (70 mg, 0.2 mmol), palladium(ii) acetate (6 mg, 0.02 mmol), and sodium carbonate (200 mg, 2 mmol) in water (1.5 mL, 83 mmol) was heated 30 min at 110° C. in the microwave. The reaction mixture was diluted with 1 N HCl and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was dissolved in methylene chloride/MeOH and MP-Carbonate (2.73 mmol/g loading; 0.9 g, 2.50 mmol) was added. After stirring 1 h, LC/MS analysis indicated complete capture of the target compound. The resin was washed with methylene chloride then stirred in 8:1 methylene chloride/AcOH. LC/MS analysis indicated the target compound was released from the resin (not quantified). The mixture was filtered. The filtrate was concentrated in vacuo, and the residue was lyophilized from water/acetonitrile. The resulting solid was triturated with methylene chloride and ether. The resulting solid was purified via HPLC (Prep: Phenomenex 250×30.0 mm 15 micron C18 column. 40 mL/min. Gradient 15% B to 100% B over 25 min. Solvent A: 7800 water/200 acetonitrile/8 TFA. Solvent B: 7200 acetonitrile/800 water/8 TFA).

reactant | 4-iodo-N-1,3-thiazol-2-ylbenzenesulfonamide | 0.5 mmol, 0.2 g | IC1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C9H7IN2O2S2
reactant | N-(2)-(4-tert-butyl-phenyl)-2-methyl-propane-1,2-diamine | 2.5 mmol, 0.55 g | C(C)(C)(C)C1=CC=C(C=C1)NC(CN)(C)C | C14H24N2
reactant | sodium carbonate | 2 mmol, 200 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 83 mmol, 1.5 mL | O | H2O
reactant | Carbonate | 2.50 mmol, 0.9 g | C([O-])([O-])=O
reactant | HCl | 1 N | Cl | ClH
catalyst | hexacarbonylmolybdenum | 0.2 mmol, 70 mg | C(=O)=[Mo](=C=O)(=C=O)(=C=O)(=C=O)=C=O
catalyst | palladium(ii) acetate | 0.02 mmol, 6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-{2-[(4-chlorophenyl)amino]ethyl}-4-[(1,3-thiazol-2-ylamino)sulfonyl]benzamide | ClC1=CC=C(C=C1)NCCNC(C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1)=O | C18H17ClN4O3S2
